US06194585B1
4-[3-(4-amino-phenyl sulfanyl)-phenyl]-tetrahydro-pyran-carbonitrile (93.57 g) and Et3N (53.1 mL) were dissolved in EtOAc (1.23 L) and heated to 50-60° C. To this solution was added acetylchloride (27.7 ml) in EtOAc (73 mL) over 30 minutes. The suspension obtained was filtered and the filter cake was washed with EtOAc (3×150 mL). The combined EtOAc solutions were washed with water (0.5 L), half saturated aqueous Na2CO3 (2×0.5 L), water (0.5 L) and saturated aqueous NaCl (0.25 L). The organics were dried with Na2SO4 and evaporated at 40° C. The crude product was recrystallized from refluxing EtOH (0.52 L) to give after cooling, filtration and drying at 40° C./20 mbar, N-{4-[3-(4-Cyano-tetrahydro-pyran-4yl)-phenyl sulfanyl]-phenyl}acetamide (55.27 g, 52% yield).

reactant | 4-[3-(4-amino-phenyl sulfanyl)-phenyl]-tetrahydro-pyran-carbonitrile | 93.57 g | NC1=CC=C(C=C1)SC=1C=C(C=CC1)C1CC(OCC1)C#N | C18H18N2OS
reactant | Et3N | 53.1 mL | CCN(CC)CC | C6H15N
reactant | acetylchloride | 27.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | EtOAc | 1.23 L | CCOC(=O)C | C4H8O2
solvent | EtOAc | 73 mL | CCOC(=O)C | C4H8O2
product | N-{4-[3-(4-Cyano-tetrahydro-pyran-4yl)-phenyl sulfanyl]-phenyl}acetamide | 55.27 g, 52% yield | C(#N)C1(CCOCC1)C=1C=C(C=CC1)SC1=CC=C(C=C1)NC(C)=O | C20H20N2O2S
